US07943636B2
Lithium hydroxide monohydrate (3.8 g, 92 mmol) was added to a solution of ethyl 1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carboxylate (6.43 g, 22.9 mmol) in methanol (30 mL) and water (10 mL). The mixture was stirred for 20 hours. Most of the volatiles were removed under reduced pressure, and water (100 mL) and acetic acid (52 mL, 910 mmol) were sequentially added. The solution was cooled to approximately 0° C. After five minutes, a white solid formed, and more water (100 mL) was added. The mixture was stirred for 30 minutes, and the solid was isolated by filtration, washed with water, and dried on the vacuum filter funnel to provide 4.88 g of 1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carboxylic acid as a white solid.

reactant | Lithium hydroxide monohydrate | 92 mmol, 3.8 g | O.[OH-].[Li+]
reactant | ethyl 1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carboxylate | 22.9 mmol, 6.43 g | C(CC)N1N=C(C=C1CC1CCOCC1)C(=O)OCC | C15H24N2O3
reactant | acetic acid | 910 mmol, 52 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 1-propyl-5-(tetrahydro-2H-pyran-4-ylmethyl)-1H-pyrazole-3-carboxylic acid | 4.88 g | C(CC)N1N=C(C=C1CC1CCOCC1)C(=O)O | C13H20N2O3
